US08895733B2
Intermediate 249: Methyl 4-[(2,2,2-trifluoroethoxy)methyl]benzoate
2,2,2-Trifluoroethanol (0.35 mL, 4.80 mmol) was dissolved in THF (2 mL) and cooled to 0 C under nitrogen. Sodium hydride (60% dispersion in mineral oil, 0.192 g, 4.80 mmol) was added portionwise and the mixture stirred for 10 min. A solution of methyl 4-(bromomethyl)benzoate in THF (3 mL) was added, the mixture was warmed to room temperature and then heated to 50 C for 3 h. The mixture was then diluted with water (15 mL) and EtOAc (20 mL). The organic layer was separated and the aqueous neutralised with 1M hydrochloric acid. The aqueous layer was further extracted with EtOAc (2×20 mL). The combined organic layers were dried over sodium sulfate and concentrated under vacuum to afford the title compound as a colourless oily residue (1.05 g, 97%). 1H NMR (500 MHZ, CDCl3) δ ppm 7.95 (2H, d), 7.33 (2H, d), 4.64 (2H, s), 3.83 (3H, s) and 3.77 (2H, q).

reactant | 2,2,2-Trifluoroethanol | 4.80 mmol, 0.35 mL | FC(CO)(F)F | C2H3F3O
reactant | Sodium hydride | 4.80 mmol, 0.192 g | [H-].[Na+]
reactant | methyl 4-(bromomethyl)benzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | Methyl 4-[(2,2,2-trifluoroethoxy)methyl]benzoate | FC(COCC1=CC=C(C(=O)OC)C=C1)(F)F | C11H11F3O3
